US04029787
3-(2-Ethoxyethylsulfamoyl)-4-(4methylpiperazine-1-yl)-benzoic acid-dihydrochloride
31 Grams of 3-(2-ethoxyethylsulfamoyl)-4-chlorobenzoic acid and 30 g of N-methylpiperazine were heated for 4 hours at 140° C. Subsequently the excess base was eliminated in vacuo. The residue was dissolved in 0.2 l of water, and the solution was adjusted to a pH value of 9.5 by means of 2N NaOH. After evaporating the solution in vacuo, the residue was extracted with boiling ethanol, and the solution, which had been concentrated to 100 ml, was mixed with 100 ml of ethanolic HCl of 10% strength. After having been triturated and cooled, the final product crystallized within a short time and was dried at 60° C. after washing with ethanol.

reactant | 3-(2-ethoxyethylsulfamoyl)-4-chlorobenzoic acid | C(C)OCCNS(=O)(=O)C=1C=C(C(=O)O)C=CC1Cl | C11H14ClNO5S
reactant | N-methylpiperazine | 30 g | CN1CCNCC1 | C5H12N2
reactant | NaOH | 2N | [OH-].[Na+]
solvent | water | 0.2 l | O | H2O
product | 3-(2-Ethoxyethylsulfamoyl)-4-(4methylpiperazine-1-yl)-benzoic acid-dihydrochloride | Cl.Cl.C(C)OCCNS(=O)(=O)C=1C=C(C(=O)O)C=CC1N1CCN(CC1)C | InChI=1S/C16H25N3O5S.2ClH/c1-3-24-11-6-17-25(22,23)15-12-13(16(20)21)4-5-14(15)19-9-7-18(2)8-10-19;;/h4-5,12,17H,3,6-11H2,1-2H3,(H,20,21);2*1H
